US07326799B2
Synthesis of N-[(2S,3S)-2-hydroxy-1-[N-[(3,4-methylenedioxy)phenyl]amino]-1-oxo-3-heptyl]-1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxamide (Compound of the Formula IX)
In anhydrous dichloromethane were dissolved 344 mg (1.23 mmol) of (2S,3S)-N-[(3,4-methylenedioxy)phenyl]-3-amino-2-hydroxyheptanamide, 315 mg (1.23 mmol) of 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid and 233 mg (1.48 mmol) of 1-hydroxybenzotriazole, and then, under nitrogen stream, 284 mg (1.48 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide was added to the above mixture at 0° C. Thereafter, the temperature of the reaction mixture was returned to room temperature, and the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in 80 ml of ethyl acetate, and the resulting mixture was washed successively with water, a 10% aqueous potassium hydrogen sulfate solution, a saturated aqueous sodium hydrogen carbonate solution and a saturated NaCl solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 574 mg (Yield: 90%) of the desired compound.

reactant | (2S,3S)-N-[(3,4-methylenedioxy)phenyl]-3-amino-2-hydroxyheptanamide | 1.23 mmol, 344 mg | C1OC=2C=C(C=CC2O1)NC([C@H]([C@H](CCCC)N)O)=O | C14H20N2O4
reactant | 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid | 1.23 mmol, 315 mg | N1(CCOCC1)C(=O)NC1(CCCCC1)C(=O)O | C12H20N2O4
reactant | 1-hydroxybenzotriazole | 1.48 mmol, 233 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.48 mmol, 284 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(2S,3S)-2-hydroxy-1-[N-[(3,4-methylenedioxy)phenyl]amino]-1-oxo-3-heptyl]-1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxamide | 574 mg, Yield: 90% | O[C@H](C(=O)NC1=CC2=C(C=C1)OCO2)[C@H](CCCC)NC(=O)C2(CCCCC2)NC(=O)N2CCOCC2 | C26H38N4O7
